US07691860B2
1) Preparation of ethyl 4-tert-butylsulfinylaminocyclohexanecarboxylate
2-Methyl-2-propanesulfinamide (854 mg) and titanium (IV) ethoxide (3.0 mL) were added to a toluene solution (5 mL) containing ethyl 4-ketocyclohexanecarboxylate (1.0 g) at room temperature, followed by stirring under heating for 1 hr at 70° C. The reaction mixture was cooled to room temperature and admixed with sodium borohydride (854 mg) and then methanol (5.0 mL), followed by stirring for 30 min. The reaction mixture was admixed with an aqueous saturated sodium-chloride solution, and after the resultant insoluble matter was filtered out, the organic layer was concentrated under reduced pressure. The residue was separated and purified by silica-gel column chromatography (C-300, hexane:ethyl acetate=1:2) to give the title compound (1.42 g) composed mainly of the trans isomer.

reactant | 2-Methyl-2-propanesulfinamide | 854 mg | CC(C)(C)S(=O)N | C4H11NOS
reactant | ethyl 4-ketocyclohexanecarboxylate | 1.0 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | sodium borohydride | 854 mg | [BH4-].[Na+]
reactant | sodium-chloride | [Cl-].[Na+]
catalyst | titanium (IV) ethoxide | 3.0 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
solvent | methanol | 5.0 mL | CO | CH4O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-tert-butylsulfinylaminocyclohexanecarboxylate | 1.42 g | C(C)(C)(C)S(=O)NC1CCC(CC1)C(=O)OCC | C13H25NO3S
